* source CARACTERIZACION
R_R4         NAND4 N00173  1Meg  
R_R1         NEG N00173  1Meg  
R_R7         NAND8 N00173  1Meg  
M_U1_M16         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M5         NAND8 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M11         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M9         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M1         NAND8 N00173 U1_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M6         U1_ND3 N00173 U1_ND4 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M7         U1_ND4 N00173 U1_ND5 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M12         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M2         U1_ND2 N00173 U1_ND3 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M13         U1_ND6 N00173 U1_ND7 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M10         U1_ND5 N00173 U1_ND6 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M3         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M14         U1_ND7 N00173 U1_ND8 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U1_M8         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M4         NAND8 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U1_M15         U1_ND8 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U5_M7         NAND4 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U5_M8         NAND4 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U5_M12         NAND4 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U5_M9         NAND4 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U5_M1         NAND4 N00173 U5_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U5_M10         U5_ND3 N00173 U5_ND4 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U5_M3         U5_ND2 N00173 U5_ND3 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U5_M11         U5_ND4 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_R2         NAND2 N00173  1Meg  
M_U2_M5         NAND2 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U2_M6         NAND2 N00173 U2_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U2_M2         U2_ND2 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U2_M4         NAND2 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
R_R6         NAND7 N00173  1Meg  
M_U3_M5         NEG ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U3_M6         NEG ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M1         NAND7 N00173 U7_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M14         U7_ND7 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M8         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M2         U7_ND2 N00173 U7_ND3 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M3         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M4         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M11         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M7         U7_ND4 N00173 U7_ND5 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M9         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M6         U7_ND3 N00173 U7_ND4 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M12         NAND7 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M5         NAND7 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U7_M10         U7_ND5 N00173 U7_ND6 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U7_M13         U7_ND6 N00173 U7_ND7 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VDD         N00173 0 3.3
M_U6_M4         NAND5 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U6_M9         NAND5 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U6_M7         U6_ND4 N00173 U6_ND5 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U6_M10         U6_ND5 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U6_M5         NAND5 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U6_M8         NAND5 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U6_M1         NAND5 N00173 U6_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U6_M6         U6_ND3 N00173 U6_ND4 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U6_M2         U6_ND2 N00173 U6_ND3 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U6_M3         NAND5 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
R_R3         NAND3 N00173  1Meg  
M_U4_M2         U4_ND2 N00173 U4_ND3 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U4_M3         NAND3 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U4_M6         U4_ND3 ENTRADA 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U4_M4         NAND3 N00173 N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
M_U4_M1         NAND3 N00173 U4_ND2 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_U4_M5         NAND3 ENTRADA N00173 N00173 CMOSP  
+ L=.18u  
+ W=.2u         
R_R5         NAND5 N00173  1Meg  
V_VB         ENTRADA 0 0
